US04057647
A solution of 32 g. of 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester in 300 ml. of absolute THF is added dropwise, under nitrogen, to a suspension of 4.6 g. of LiAlH4 in 200 ml. of THF and the mixture is heated under reflux for one hour. After cooling, ethyl acetate, water and 32% sodium hydroxide solution are added and the mixture is worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol, m.p. 82°-84°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H18F2O3
reactant | THF | C1CCOC1 | C4H8O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)(C)O | C16H16F2O2
